US04348396
To an ice cold solution of 52.1 g. of 2-nitro-5-methylthiobenzoic acid in 250 ml. of methanol was added an ethereal solution of diazomethane until thin layer chromatography indicated the reaction was complete. The resulting solution was evaporated to dryness and used as such. In one case the crude product was crystallized from methanol to give yellow needles of methyl 2-nitro-5-methylthiobenzoate, mp 53°-54°.

reactant | 2-nitro-5-methylthiobenzoic acid | [N+](=O)([O-])C1=C(C(=S)O)C=C(C=C1)C | C8H7NO3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methanol | CO | CH4O
product | methyl 2-nitro-5-methylthiobenzoate | [N+](=O)([O-])C1=C(C(=S)OC)C=C(C=C1)C | C9H9NO3S
